*==============================================================================
* SC4823S6 — Linear Hall-Effect Sensor Behavioral SPICE Model
* Semiment SC4823S6-TR (SOT-23-6)
* Sensitivity: 3.3 mV/Gs @ VCC=3.3V
* ngspice-compatible version
*==============================================================================
* Pin mapping:
*   1: VCC   — power supply (2.5V ~ 5.5V)
*   2: VSS   — ground
*   3: VOUT  — analog output
*   4: SLEEP — sleep control (HIGH = sleep / LOW = active)
*   5: VSS   — ground (pin 5)
*   6: AWAKE — wake output / mode input
*
* Operating modes:
*   ACTIVE:  SLEEP < 0.5V, AWAKE > 1.0V → VOUT = VCC/2 + Sens*B
*   SLEEP:   SLEEP > 1.0V → VOUT = Hi-Z, Iq=1.5uA
*   MUTED:   SLEEP < 0.5V, AWAKE < 1.0V → VOUT = Hi-Z
*
* Hidden node: B_MAG — magnetic field input in Gauss
*==============================================================================

.subckt SC4823S6 VCC VSS VOUT SLEEP AWAKE
.param Vq     = 1.65
.param Sens   = 3.3e-3
.param Rout   = 1k
.param Roff   = 10Meg
.param Cvout  = 50pF
.param Iq_on  = 0.6m
.param Iq_off = 1.5u

* Supply current (mode-dependent, simplified to active)
Isupply VCC VSS DC {Iq_on}

* SLEEP and AWAKE input capacitance
C_sleep  SLEEP VSS 5pF
C_awake  AWAKE VSS 5pF

* AWAKE weak pull-up resistor
R_awake_pu AWAKE VCC 100k

* VOUT capacitance
C_vout VOUT VSS {Cvout}

* Behavioral VOUT voltage source
* Mode detection via internal nodes
* N_MODE_ACTIVE = 1 when SLEEP<1V AND AWAKE>1V, else 0
* N_MODE_HIZ   = 1 when in Hi-Z mode (sleep or muted)

* Voltage-controlled resistor between VOUT and VSS
* When active: Rout=1k to thevenin voltage Vq+Sens*B
* When Hi-Z:   10Meg to VSS (practical Hi-Z)

* Output voltage: thevenin equivalent
* Active:  VOUT_thev = 1.65 + 3.3e-3 * B
* Hi-Z:    VOUT pulled weakly to VSS
B_thev N_THEV VSS V = 1.65 + 3.3e-3 * V(B_MAG)

* Output resistance: low when active, high when Hi-Z
* Use a voltage-controlled resistor approximation
* R_eff = 1k (active) or 10Meg (Hi-Z)
* Implement as G-source: I = (VOUT - Vthev) / R_eff
G_out VOUT N_THEV VALUE = { 
+ (V(VOUT) - V(N_THEV)) / 
+ (1e3 * (1 - V(N_HIZ)) + 1e7 * V(N_HIZ) + 1e-12) }

* Mode detection: Hi-Z when SLEEP>1V OR AWAKE<1V
* N_HIZ = 1 when in Hi-Z mode, 0 when active
B_hiz N_HIZ VSS V = (V(SLEEP) > 1.0) | (V(AWAKE) < 1.0)

.ends SC4823S6

*==============================================================================
* SC4823S6_SIMPLE — Simplified model for signal chain analysis
* Assumes sensor is active (SLEEP=LOW, AWAKE=HIGH)
*==============================================================================
.subckt SC4823S6_SIMPLE VCC VSS VOUT B_MAG
.param Vq   = 1.65
.param Sens = 3.3e-3
.param Rout = 1k
.param Cvout = 50pF

R_out  VOUT VSS {Rout}
C_out  VOUT VSS {Cvout}
B_vout VOUT VSS V = {Vq} + {Sens} * V(B_MAG)

.ends SC4823S6_SIMPLE
